US06258961B1
[2-(2-thienyl)ethylamino](2-chlorophenyl)acetamide hydrobromide
14.7 g (0.05 mol) of [2-(2-thienyl)ethylamino](2-chlorophenyl)acetamide, prepared as described in Example 7, is dissolve din 150 ml of acetone. To the solution 4 ml of 60% aqueous hydrogen bromide solution is added and the precipitated white crystals are filtered off, washed with acetone and dried.

reactant | [2-(2-thienyl)ethylamino](2-chlorophenyl)acetamide | 0.05 mol, 14.7 g | S1C(=CC=C1)CCNC(C(=O)N)C1=C(C=CC=C1)Cl | C14H15ClN2OS
reactant | hydrogen bromide | 4 ml | Br | BrH
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | [2-(2-thienyl)ethylamino](2-chlorophenyl)acetamide hydrobromide | Br.S1C(=CC=C1)CCNC(C(=O)N)C1=C(C=CC=C1)Cl | InChI=1S/C14H15ClN2OS.BrH/c15-12-6-2-1-5-11(12)13(14(16)18)17-8-7-10-4-3-9-19-10;/h1-6,9,13,17H,7-8H2,(H2,16,18);1H
